US08110687B2
A mixture of 7-hydroxy-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid (5.62 g, 29.2 mmol); 2-chloro-4-nitropyridine (5.10 g, 32.2 mmol) and cesium carbonate (28.6 g, 87.7 mmol) in DMF (150 mL) was heated at 50° C. for 5 hr. The reaction mixture was allowed to cool to rt and acidified to pH 3 by addition of 1N HCl. The mixture was extracted with EtOAc and the organic solutions were combined, washed with water, dried over Na2SO4 and evaporated. The residue was adsorbed onto silica and purified by filtration through a pad of silica. The product was then triturated with EtOAc to give 7-[(2-chloropyridin-4-yl)oxy]-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid (4.62 g, 52.0%). LCMS: (FA) ES+ 304.1, ES− 302.1.

reactant | 7-hydroxy-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid | 29.2 mmol, 5.62 g | OC1=CC=C2CCC(CC2=C1)C(=O)O | C11H12O3
reactant | 2-chloro-4-nitropyridine | 32.2 mmol, 5.10 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | cesium carbonate | 87.7 mmol, 28.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 7-[(2-chloropyridin-4-yl)oxy]-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid | 4.62 g, 52.0% | ClC1=NC=CC(=C1)OC1=CC=C2CCC(CC2=C1)C(=O)O | C16H14ClNO3
